### PR TITLE
[Merged by Bors] - feat: `FunLike` instance for `HilbertBasis`

### PR DESCRIPTION
**Pull request by eric-wieser**
Hilbert bases are equal iff their elements are equal.

This is obtained from a more general `ext` lemma for continuous additive maps from `lp`.

Many helper lemmas for `lp.single` are added / generalized / golfed along the way.

---

- [x] depends on: #21779

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 1]
```diff
@@ -337,6 +338,15 @@ theorem coeFn_neg (f : lp E p) : ⇑(-f) = -f :=
...
   rfl
 
+variable (p E) in
+/-- Coercion to function as an `AddMonoidHom`. -/
+def coeFnAddMonoidHom : lp E p →+ (∀ i, E i) where
+  toFun := (⇑)
+  __ := AddSubgroup.subtype _
+
+@[simp]
+theorem coeFnAddHom_apply (x : lp E p) : coeFnAddMonoidHom E p x = ⇑x := rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:348]:
```suggestion
theorem coeFnAddMonoidHom_apply (x : lp E p) : coeFnAddMonoidHom E p x = ⇑x := rfl
```

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 2]
```diff
@@ -877,60 +887,101 @@ variable [DecidableEq α]
...
-  · subst hi
-    simp [lp.single_apply_self]
-  · simp [lp.single_apply_ne p i _ hi]
+protected theorem single_add (p) (i : α) (a b : E i) :
+    lp.single p i (a + b) = lp.single p i a + lp.single p i b :=
+  ext <| Pi.single_add _ _ _
+
+/-- `single` as an `AddMonoidHom`. -/
+@[simps]
+def singleAddHom (p) (i : α) : E i →+ lp E p where
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:928]:
```suggestion
def singleAddMonoidHom (p) (i : α) : E i →+ lp E p where
```

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 3]
```diff
@@ -1001,6 +1052,73 @@ theorem uniformContinuous_coe [_i : Fact (1 ≤ p)] :
...
+theorem uniformContinuous_single [Fact (1 ≤ p)] [DecidableEq α] (i : α) :
+    UniformContinuous (lp.single (E := E) p i) := by
+  have hp : 0 < p := zero_lt_one.trans_le Fact.out
+  rw [NormedAddCommGroup.uniformity_basis_dist.uniformContinuous_iff
+    NormedAddCommGroup.uniformity_basis_dist]
+  intro ε hε
+  refine ⟨ε, hε, fun x y hxy => ?_⟩
+  dsimp
+  simp_rw [← lp.single_sub, lp.norm_single (p := p) (hp := hp)]
+  exact hxy
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:1064]:
```suggestion
theorem isometry_single [Fact (1 ≤ p)] [DecidableEq α] (i : α) :
    Isometry (lp.single (E := E) p i) :=
  AddMonoidHomClass.isometry_of_norm (lp.singleAddMonoidHom (E := E) p i) fun _ ↦
    lp.norm_single (zero_lt_one.trans_le Fact.out) _ _
```

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 4]
```diff
@@ -1001,6 +1052,73 @@ theorem uniformContinuous_coe [_i : Fact (1 ≤ p)] :
...
+
+variable [NormedRing 𝕜] [∀ i, Module 𝕜 (E i)] [∀ i, BoundedSMul 𝕜 (E i)]
+
+variable (p E) in
+/-- `lp.single` as a continuous morphism of additive monoids. -/
+def singleContinuousAddMonoidHom [Fact (1 ≤ p)] [DecidableEq α] (i : α) :
+    ContinuousAddMonoidHom (E i) (lp E p) where
+  __ := singleAddHom p i
+  continuous_toFun := uniformContinuous_single i |>.continuous
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:1073]:
```suggestion
  continuous_toFun := isometry_single i |>.continuous
```

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 5]
```diff
@@ -1001,6 +1052,73 @@ theorem uniformContinuous_coe [_i : Fact (1 ≤ p)] :
...
+theorem singleContinuousAddMonoidHom_apply [Fact (1 ≤ p)] [DecidableEq α] (i : α) (x : E i) :
+    singleContinuousAddMonoidHom E p i x = lp.single p i x :=
+  rfl
+
+variable (𝕜 p E) in
+/-- `lp.single` as a continuous linear map. -/
+def singleContinuousLinearMap [Fact (1 ≤ p)] [DecidableEq α] (i : α) :
+    E i →L[𝕜] lp E p where
+  __ := lsingle p i
+  cont := uniformContinuous_single i |>.continuous
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:1085]:
```suggestion
  cont := isometry_single i |>.continuous
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Comment by eric-wieser** [comment]
Thanks for the cleanup!

bors merge
